US09343198B2
Naphthalene-1,5-diamine (3.14 g, 19.8 mmol), 1-bromooctane (25.25 g, 0.130 mol), potassium carbonate (11.79 g, 85.3 mmol), and potassium iodide (0.05 g, 0.30 mmol) was stirred in dry butanol (150 ml) and heated to 110° C. for 36 h. The reaction was quenched with water and extracted with ether three times. The combined organic phase was washed three times with water and evaporated to give black oil which was distilled under reduced pressure at 90° C. to yield a black tar. This was purified with flash chromatography using hexane as mobile phase to obtain colourless oil which crystallised to yield N1,N1,N5,N5-tetraoctylnaphthalene-1,5-diamine (2.3 g, 3.79 mmol) as white crystals. 1H-NMR (CDCl3, δ): 0.85 (t, 12H), 1.0-1.4 (m, 40H), 1.4-1.6 (m, 8H), 3.08 (t, 8H), 7.1 (d, 2H), 7.35 (t, 2H), 8.01 (d, 2H) MS MALDI-TOF (m/z): 606.574

reactant | Naphthalene-1,5-diamine | 19.8 mmol, 3.14 g | C1(=CC=CC=2C(=CC=CC12)N)N | C10H10N2
reactant | 1-bromooctane | 0.130 mol, 25.25 g | BrCCCCCCCC | C8H17Br
reactant | potassium carbonate | 85.3 mmol, 11.79 g | C([O-])([O-])=O.[K+].[K+]
solvent | butanol | 150 ml | C(CCC)O | C4H10O
catalyst | potassium iodide | 0.30 mmol, 0.05 g | [I-].[K+]
product | N1,N1,N5,N5-tetraoctylnaphthalene-1,5-diamine | 3.79 mmol, 2.3 g | C(CCCCCCC)N(C1=CC=CC=2C(=CC=CC12)N(CCCCCCCC)CCCCCCCC)CCCCCCCC | C42H74N2
